US09382356B2
(i) Synthesis of 2,7-dimethyl-3,6-ditert-butyl-fluorene
Under a nitrogen atmosphere, 100 mL of dehydrated tertbutyl methyl ether was added to 5.03 g (11.5 mmol) of 2,7-dibromo-3,6-ditert-butyl-fluorene synthesized in Synthesis Example 1-1 (i) and 0.196 g (0.24 mmol) of PdCl2(dppf).CH2Cl2, and the mixture was stirred. This solution was cooled in an ice bath, and 19.2 mL (57.6 mmol) of a 3 mol/L diethyl ether solution of methyl magnesium bromide was added dropwise over 15 minutes. The mixture was heated to reflux for 5 days. The mixture was left to be naturally cooled, and 1 N hydrochloric acid was then added dropwise in an ice bath to terminate the reaction. Diethyl ether was added to perform liquid-liquid phase separation, and the organic layer was washed two times with a saturated aqueous solution of sodium hydrogen carbonate, two times with water, and once with saturated brine, and dried over magnesium sulfate. The solvent was distilled off, and the residue was subjected to separation by silica gel chromatography to obtain a target product as a white powder (yield 2.07 g (63%)). The target product was identified by 1H-NMR.

reactant | tertbutyl methyl ether | 100 mL | COC(C)(C)C | C5H12O
reactant | 2,7-dibromo-3,6-ditert-butyl-fluorene | 11.5 mmol, 5.03 g | BrC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)Br | C21H24Br2
reactant | methyl magnesium bromide | C[Mg]Br
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | diethyl ether | 3 mol/L | C(C)OCC | C4H10O
catalyst | PdCl2(dppf) | 0.24 mmol, 0.196 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,7-dimethyl-3,6-ditert-butyl-fluorene | yield 2.07 g, 63% | CC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C | C23H30
